US06462092B1
The 3-[(3-aminophenyl)[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol (50 mg, 0.12 mmol) was dissolved in 1 mL of dichloromethane. Triethylamine (20 μL, 0.14 mmol) followed by 4-fluorophenyl isocyanate (14.6 μL 0.13 mmol) were added. The solution was stirred at room temperature for 18 hours. The reaction was filtered through pre-wetted celite eluting with ethyl acetate. The solvent was evaporated, and the residue was purified by reverse phase HPLC eluting with 10% to 90% acetonitrile in water to afford 26 mg (40%) of the desired N-(4fluorophenyl)-N′-[3-[[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl](3,3,3-trifluoro-2-hydroxypropyl)amino]phenyl]urea product as a yellow oil, which was greater than 95% pure by reverse phase HPLC analysis. HRMS calcd. for C25H22F8N3O3: 564.1533 [M+H]+, found: 564.1566. 1H NMR (CDCl3) δ 3.7 (m, 2H), 4.1 (m, 1H), 4.7 (m, 2H), 5.9 (tt, 1H), 6.6 (d, 1H), 6.9-7.4 (m, 11H), 7.5 (s, 1H), 7.8 (s, 1H).

reactant | 3-[(3-aminophenyl)[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]amino]-1,1,1-trifluoro-2-propanol | 0.12 mmol, 50 mg | NC=1C=C(C=CC1)N(CC(C(F)(F)F)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C18H17F7N2O2
reactant | Triethylamine | 0.14 mmol, 20 μL | C(C)N(CC)CC | C6H15N
reactant | 4-fluorophenyl isocyanate | 0.13 mmol, 14.6 μL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-(4fluorophenyl)-N′-[3-[[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl](3,3,3-trifluoro-2-hydroxypropyl)amino]phenyl]urea | 26 mg, 40% | FC1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)N(CC(C(F)(F)F)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C25H21F8N3O3
